US05925789
Preparation of 4-Chloro-2-trifluoroacetyl-aniline
4-Chloro-2-trifluoroacetylaniline, hydrochloride hydrate (17.1 g, 62 mmol) was stirred in a mixture of toluene (100 mL) and water (50 mL). The mixture was neutralized to pH 7 with saturated NaHCO3. The organic phase was concentrated in vacuo and the residue recrystallized from heptane to give 12.5 g (91%) of the title compound as yellow needles: mp 98-99° C.; 1H NMR (300 MHz, CDCl3) δ 7.70 (t, J=2 Hz, 1H), 7.32 (dd, J=2, 9 Hz, 1H), 6.7 (d, J=9 Hz, 1H), 6.44 (brs, 2H); 13C NMR (75 MHz CDCl3) δ 180.0, 151.6, 136.9, 130.1 , 120.9, 119.0, 116.8, 111.4; 19F NMR (282 MHz, CDCl3) δ -70.3.

reactant | 4-Chloro-2-trifluoroacetylaniline, hydrochloride hydrate | 62 mmol, 17.1 g | O.Cl.ClC1=CC(=C(N)C=C1)C(C(F)(F)F)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | 4-Chloro-2-trifluoroacetyl-aniline | 12.5 g, 91% | ClC1=CC(=C(N)C=C1)C(C(F)(F)F)=O | C8H5ClF3NO
